US05179125
Preparation of 3-[(2-acetylthiomethyl-3-phenylpropionyl)amino]-4-methylbenzoic acid
3-Amino-4-methylbenzoic acid (1.5 g) is dissolved in a solution of sodium hydrogen carbonate (1.68 g) in water (25 ml), and to the mixture is added dropwise a solution of 2-acetylthiomethyl-3-phenylpropionyl chloride (2.86 g) in tetrahydrofuran (8 ml) with vigorously stirring, and the mixture is stirred at room temperature for 3 hours. Tetrahydrofuran is distilled off at a low temperature under reduced pressure, and the residue is washed with diethyl ether and acidified with hydrochloric acid, and the resulting oily substance is extracted with ethyl acetate. The extract is washed with saturated aqueous sodium chloride solution and dried over anhydrous sodium sulfate, and then the solvent is distilled off under reduced pressure. The oily residue is purified by a medium pressure column chromatography with CHP-20P (eluant, water-acetonitrile). The fractions containing the desired compound are collected, and acetonitrile is distilled off under reduced pressure, and the precipitated crystals are separated by filtration to give the title compound (1.93 g).

reactant | 3-Amino-4-methylbenzoic acid | 1.5 g | NC=1C=C(C(=O)O)C=CC1C | C8H9NO2
reactant | 2-acetylthiomethyl-3-phenylpropionyl chloride | 2.86 g | C(C)(=O)SCC(C(=O)Cl)CC1=CC=CC=C1 | C12H13ClO2S
solvent | sodium hydrogen carbonate | 1.68 g | C(O)([O-])=O.[Na+]
solvent | water | 25 ml | O | H2O
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
product | 3-[(2-acetylthiomethyl-3-phenylpropionyl)amino]-4-methylbenzoic acid | 1.93 g | C(C)(=O)SCC(C(=O)NC=1C=C(C(=O)O)C=CC1C)CC1=CC=CC=C1 | C20H21NO4S
